US07241805B2
3-Chloro-propiophenone starting material was brominated in methylene chloride by dropping bromine under controlled conditions. On reaction completion the mother liquor was worked up and then the second reaction was executed by transferring the bromoderivative solution onto the tert-butylamine. The second substitution reaction (the tert-butylamine amino-group substitutes the bromine atom) forms the final bupropion molecule. After work up of the mother liquor, a bupropion toluene solution was obtained. The solvent was evaporated and bupropion was dissolved in isopropanol. From the isopropanol solution, the hydrobromide was precipitated with hydrogen bromide gas. On precipitation completion, the product was centrifuged, washed with isopropanol and dried under vacuum. On dryer discharge approval it was discharged in Kraft drums within double polyethylene bags.

reactant | 3-Chloro-propiophenone | ClCCC(=O)C1=CC=CC=C1 | C9H9ClO
reactant | bromine | BrBr | Br2
reactant | tert-butylamine | C(C)(C)(C)N | C4H11N
reactant | bupropion | CC(C(=O)C=1C=CC=C(C1)Cl)NC(C)(C)C | C13H18ClNO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | bupropion toluene | CC(C(=O)C=1C=CC=C(C1)Cl)NC(C)(C)C.C1(=CC=CC=C1)C | InChI=1S/C13H18ClNO.C7H8/c1-9(15-13(2,3)4)12(16)10-6-5-7-11(14)8-10;1-7-5-3-2-4-6-7/h5-9,15H,1-4H3;2-6H,1H3
